US06489344B1
4-[5-imidazol-2-yl-2-({2-[(5-nitro(2-pyridyl))amino]ethyl}amino)pyrimidin-4-yl]benzenecarbonitrile was prepared from 4-cyanobenzoyl chloride using the general method for [4-(2,4-dichlorophenyl)-5-imidazol-2-ylpyrimidin-2-yl]{2-[(5-nitro(2-pyridyl))amino]ethyl}amine.

reactant | 4-cyanobenzoyl chloride | C(#N)C1=CC=C(C(=O)Cl)C=C1 | C8H4ClNO
reactant | [4-(2,4-dichlorophenyl)-5-imidazol-2-ylpyrimidin-2-yl]{2-[(5-nitro(2-pyridyl))amino]ethyl}amine | ClC1=C(C=CC(=C1)Cl)C1=NC(=NC=C1C=1NC=CN1)NCCNC1=NC=C(C=C1)[N+](=O)[O-] | C20H16Cl2N8O2
product | 4-[5-imidazol-2-yl-2-({2-[(5-nitro(2-pyridyl))amino]ethyl}amino)pyrimidin-4-yl]benzenecarbonitrile | N1C(=NC=C1)C=1C(=NC(=NC1)NCCNC1=NC=C(C=C1)[N+](=O)[O-])C1=CC=C(C=C1)C#N | C21H17N9O2
